US04639460
2-[2,4-Dimethoxyphenyl]-5-methylthiazolidin-4-one
In a flask equipped with a trap for the continuous collection and removal of water and condenser, 40 g (0.24 mole) 2,4-dimethoxybenzaldehyde, 26.8 g (0.24 mole) 95% thiolactic acid, 15.2 g (0.24 mole) ammonium formate and 200 ml toluene were placed. The resulting mixture was heated to reflux and refluxed for 4 hours, during which about 10 ml water were collected. The reaction mixture was then allowed to stir overnight without heat at ambient temperature. An orange precipitate formed overnight. The reaction mixture was poured into water and then extracted three times with ethyl acetate. The combined organic fractions were washed twice with an aqueous potassium carbonate solution, once with water, dried, and filtered. Stripping gave a yellow semi-solid which washed with ether to give 20 g of the above-identified product as a fluffy yellow solid.

reactant | 2,4-dimethoxybenzaldehyde | 0.24 mole, 40 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | thiolactic acid | 0.24 mole, 26.8 g | C(C(O)C)(=S)O | C3H6O2S
reactant | ammonium formate | 0.24 mole, 15.2 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
solvent | water | about 10 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2,4-Dimethoxyphenyl]-5-methylthiazolidin-4-one | 20 g | COC1=C(C=CC(=C1)OC)C1SC(C(N1)=O)C | C12H15NO3S
